US04743640
Preparation of 1-n-hexadecyloxycarbonyloxy-1-methyl-2-acetylethene (compound 1)
30.4 g (0.1 mole) of n-hexadecyl chloroformate, 15 g (0.15 mole) of acetylacetone and 80 ml of diethyl ether are charged to a 250 ml flask. Then a solution of 11 g (0.11 mole) of triethylamine in 20 ml of diethyl ether is added, with stirring, at a temperature below 10° C. over 25 minutes. The mixture is warmed to room temperature and allowed to stand for 2 days. The precipitate is isolated by filtration and washed with diethyl ether. The residue is triethylamine hydrochloride (13.8 g; theory: 13.8 g). The filtrate is washed twice with water and then dried over Na2SO4. First the solution is concentrated by rotary evaporation and then the residual acetylacetone and the dietyl ether are distilled off with an oil pump, to give colourless crystals with a melting point of 33°-35° C.

reactant | n-hexadecyl chloroformate | 0.1 mole, 30.4 g | ClC(=O)OCCCCCCCCCCCCCCCC | C17H33ClO2
reactant | acetylacetone | 0.15 mole, 15 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | triethylamine | 0.11 mole, 11 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 1-n-hexadecyloxycarbonyloxy-1-methyl-2-acetylethene | C(CCCCCCCCCCCCCCC)OC(=O)OC(=CC(C)=O)C | C22H40O4
